Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting, diarrea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yom with a history of diverticulitis, gout and asthma who 
presents with 2 day history of acute onset subjective fevers, 
chills, nausea, vomiting and diarrhea. Patient has been in his 
usual state of health until the day after ___ when he 
started having fevers, chills and malaise. Soon after he started 
having nausea/vomiting and diarrhea. No hematemesis. He has 
since had ___ BMs of watery diarrhea a day. He continued to 
have symptoms and noticed a small amount of blood in his toilet 
bowl, which prompted him to call his PCP and be evaluated. There 
he was found to have guiaiac positive stools and was therefore 
referred to the ED for concern of BRBPR and dehydration. He 
reports that he has not been able to tolerate even a clear diet 
without vomiting. Denies sick contacts. No one at his ___ 
dinner is also sick. His wife is not sick. No history of similar 
episodes. Endorsed some SOB this AM. Reports that last night was 
"the worst night" of his life due to discomfort from illness.  
 In the ED, initial vitals were: 97.2 ___ 18 98% RA  
 Exam notable for:  
 appears well  
 lungs CTABL  
 abd LLQ and RLQ ttp, mildly suprapubic, +hypoactive bs  
 rectal red & Guaiac positive  
 BLE no edema  
 Labs showed chem panel initially with ___ to Cr of 1.8 from 1.2 
at baseline. Na 132, bicarb 21. Cr improved to 1.5 after 2L NS. 
CBC notable for hgb of 16. No leukocytosis (4.4), but left shift 
with 13% bands.  
 Imaging significant for CT scan of abdomen w/o showing:  
 -Diffuse colitis, centered along descending colon. No 
extraluminal free air or  
 fluid collection. Given diffuse involvement differential 
includes C difficile,  
 inflammatory, infectious, and less likely ischemic etiologies.  

 -No evidence of acute appendicitis.  
 -Bilateral nonobstructing renal stones.  
 Received 2L NS, Zofran, cipro/flagyl  
 Transfer VS were 98.6 86 140/84 16 95% RA  
 
 Decision was made to admit to medicine for further management.  

 On arrival to the floor, patient reports his last BM was 20 
minutes ago.  
 Review of systems: As per HPI, otherwise negative in detail  
 
Past Medical History:
Kidney stones; calcium oxalate, status  
post lithotripsy  
history of gout  
Asthma  
diverticulitis 
 
Social History:
___
Family History:
Father died of young age of heart attack. no history of IBD or 
GI illnesses.  
 
Physical Exam:
ADMISSION PHYSICAL:
===================
Vital Signs: 98.7 PO 158/95 R Lying 79 18 93 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, mildly tender to palpation without rebound or 
guarding throughout, non-distended, bowel sounds present, no 
organomegaly  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE PHYSICAL:
===================
Vitals: Afebrile, BP 120s-140s/70s-80s, HR ___, RR 18, Room 
air
General: Alert, oriented, NAD 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD
CV: RRR, normal S1 + S2, no m,r,g
Lungs: CTAB, no w,r,r
Abdomen: Soft, mildly TTP LLQ (improving) without rebound or 
guarding, ND, NBS, no organomegaly  
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: A+Ox3, CNII-XII intact, ___ strength upper/lower 
extremities, grossly normal sensation, 2+ reflexes bilaterally, 
gait deferred. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:15PM BLOOD WBC-4.4 RBC-5.98 Hgb-16.6 Hct-48.6 
MCV-81* MCH-27.8 MCHC-34.2 RDW-13.2 RDWSD-38.5 Plt ___
___ 01:15PM BLOOD Neuts-59 Bands-13* Lymphs-13* Monos-15* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-3.17 AbsLymp-0.57* 
AbsMono-0.66 AbsEos-0.00* AbsBaso-0.00*
___ 01:15PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 01:15PM BLOOD Glucose-140* UreaN-43* Creat-1.8* Na-132* 
K-3.9 Cl-94* HCO3-21* AnGap-21*
___ 07:28AM BLOOD Calcium-8.6 Phos-2.5* Mg-1.9
___ 01:34PM BLOOD Lactate-1.8
___ 02:50PM URINE Color-Straw Appear-Clear Sp ___
___ 02:50PM URINE Blood-SM  Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:50PM URINE RBC-3* WBC-2 Bacteri-FEW Yeast-NONE Epi-0

MICRO LABS:
===========
___ STOOL C. difficile DNA amplification 
assay-FINAL/NEGATIVE
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ URINE URINE CULTURE-FINAL/NEGATIVE
___ 04:05PM STOOL NoroGI-NEGATIVE NoroGII-NEGATIVE

IMAGING:
========
CT abdomen/pelvis w/o contrast (___): 1. Pancolitis, most 
pronounced along the descending colon.  No extraluminal free air 
or fluid collection.  Given diffuse involvement differential 
includes C difficile,  infectious, inflammatory, and less likely 
ischemic etiologies. 2. No evidence of acute appendicitis. 3. 
Bilateral nonobstructing renal stones. 4. Cholelithiasis without 
evidence of acute cholecystitis. 

DISCHARGE LABS:
===============
___ 08:13AM BLOOD WBC-4.5 RBC-4.79 Hgb-13.3* Hct-39.6* 
MCV-83 MCH-27.8 MCHC-33.6 RDW-13.4 RDWSD-40.4 Plt ___
___ 08:13AM BLOOD Glucose-93 UreaN-20 Creat-1.1 Na-135 
K-3.7 Cl-99 HCO3-23 AnGap-17
___ 08:13AM BLOOD Calcium-8.5 Phos-2.6* Mg-2.0
 
Brief Hospital Course:
This is a ___ year old male with a past medical history 
significant for diverticulitis, gout, asthma who presented with 
2 days of subjective fever/chills with nausea, vomiting, 
diarrhea, and abdominal pain.

On presentation, he was afebrile and his vitals were 
unremarkable. His labs were notable for Cr 1.8, Na 132. He had a 
CT abdomen/pelvis without contrast (___) that showed 
pancolitis. He was originally started on cipro/flagyl, but given 
high concern for viral infection, this was discontinued. 
Norovirus PCR is negative. He was thought to be hypovolemic 
given his vomiting and diarrhea and so he received maintenance 
IVF. His creatinine and sodium improved with IVF. His nausea and 
vomiting resolved on admission and he was able to tolerate PO 
upon discharge. He noted streaks of blood with some of his 
diarrhea (FOBT positive in clinic). His hemoglobin remained 
stable.

#Diarrhea/Vomiting/Abdominal pain
#subjective fevers  
#Colitis  
He had a CT abdomen/pelvis without contrast (___) that showed 
pancolitis. He was originally started on cipro/flagyl, but given 
high concern for viral gastroenteritis and quick improvement, 
these was discontinued. Norovirus PCR was negative. 

#Acute kidney injury:
His creatinine was 1.8 on admission, thought to be likely 
prerenal azotemia in setting of diarrhea, vomiting, and poor PO. 
His creatinine improved to 1.1 with maintenance fluid and better 
PO intake.

#Hyponatremia: 
His sodium was 132 on admission, likely hypovolemic hyponatremia 
in the setting of poor PO. It improved in the ED with volume 
resuscitation.   

#Bright red blood per rectum: 
He had a small amount diluted in bowl. His hemoglobin was normal 
and stable. This was thought to be most likely in the setting of 
diarrheal illness and irritation (?hemorrhoids) vs. colitis, as 
above.

#Gout:
No active flare this hospital admission. He was continued on his 
home Febuxostat.

#Cardiovascular prophylaxis:
He was continued on his home aspirin.

#Asthma: 
He had no asthmatic exacerbation this admission. He was 
continued on his home theophylline. Since Qvar is non-formulary, 
he was on fluticasone while inpatient. He was restarted on Qvar 
upon discharge.

TRANSITIONAL ISSUES:
====================
-He will follow-up with his PCP upon discharge.
-He had BRBPR prior to admission. Consider sigmoidoscopy or 
colonoscopy if this continues.
-Pt had mild thrombocytopenia (100s), most likely ___ acute 
viral illness. Please check CBC at f/u apt to monitor for 
improvement and consider further work-up if not improving, 
consider DC Aspirin if thrombocytopenia not resolving.
-Pt had likely pre-renal ___ that resolved with IVF over 
admission, please check lytes at f/u appointment to ensure 
continued resolution

-Code: Full
-Contact: ___ 
___: wife 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Qvar (beclomethasone dipropionate) 80 mcg/actuation 
inhalation BID 
2. Febuxostat 80 mg PO DAILY 
3. Theophylline SR 300 mg PO BID 
4. Aspirin 81 mg PO QHS 
5. TraZODone 50 mg PO QHS 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO QHS  
2.  Febuxostat 80 mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Qvar (beclomethasone dipropionate) 80 mcg/actuation 
inhalation BID  
5.  Theophylline SR 300 mg PO BID  
6.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
==================
Acute Viral GI illness
Acute kidney injury
Hyponatremia
Hematochezia

Secondary diagnosis:
====================
Gout
Asthma
Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for abdominal pain, nausea, vomiting, and 
diarrhea. You were thought to have a virus that infects your 
gut, which is contagious. You were also found to have slight 
kidney damage and low sodium thought to be due to poor oral 
intake. Please try to drink and eat well once you go home. You 
were not started on any new medications. Please follow-up with 
your primary care physician ___.

It was a pleasure taking care of you,

-___ medical care team
 
Followup Instructions:
___